US08895544B2
5-Ethyl-2-fluoro-4-{3-[5-(3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-ylmethyl)-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl]-1H-indazol-6-yl}-phenol
The title compound was prepared from 3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-carbaldehyde (38 mg, 198 μmol) and 5-ethyl-2-fluoro-4-[3-(4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl)-1H-indazol-6-yl]-phenol trihydrobromide salt (Preparation 25, 50 mg, 132 μmol) using the method of Example 22. The crude material was purified by HPLC Method A to afford 22.1 mg of the title compound.

reactant | 3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-carbaldehyde | 198 μmol, 38 mg | N1(CCCCC1)C1=NC=C(C=C1)C=O | C11H14N2O
reactant | 5-ethyl-2-fluoro-4-[3-(4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl)-1H-indazol-6-yl]-phenol trihydrobromide salt | 132 μmol, 50 mg | Br.Br.Br.C(C)C=1C(=CC(=C(C1)O)F)C1=CC=C2C(=NNC2=C1)C=1NC2=C(CNCC2)N1
product | 5-Ethyl-2-fluoro-4-{3-[5-(3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-ylmethyl)-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl]-1H-indazol-6-yl}-phenol | 22.1 mg | C(C)C=1C(=CC(=C(C1)O)F)C1=CC=C2C(=NNC2=C1)C=1NC2=C(CN(CC2)CC=2C=CC(=NC2)N2CCCCC2)N1 | C32H34FN7O
